US05502126
In this experiment, an isoprene-butadiene copolymer rubber was prepared using an alcohol modified neodymium catalyst system. In this procedure, a one gallon (3.78 liter) reactor was charged with 1,214 grams of hexane containing 81.3 grams of butadiene and 558.43 grams of 1.23 molar diisobutylaluminum hydride (DIBAH) in hexane, (i.e., 25% weight percent DIBAH). The reactor was maintained at 20° C. by cooling. N-butanol (11.16 grams) was added with stirring. After stirring for thirty minutes, 107.5 grams of 10.1% neodymium solution (neodymium neodecanoate) diluted with 160 grams of dry hexane, was charged to the reactor. The-solution was stirred for another thirty minutes after which time 18.2 grams of allyl bromide was added. The cooling was stopped and the solution was allowed to warm up. A delayed exothermic reaction was noted. After twenty minutes, bring the solution temperatures to about 10° C. above ambient temperature. When the temperature ultimately dropped, the catalyst solution was aged by heating at 65° C. for ninety minutes. The catalyst prepared had a butanol-DIBAH!Nd-allyl bromide-butadiene molar ratio of 2-13!-1-2-20, respectively, and a concentration of 0.025 molarity with respect to the neodymium.

reactant | butadiene | C=CC=C | C4H6
reactant | diisobutylaluminum hydride | 1.23 molar, 558.43 grams | [H-].C(C(C)C)[Al+]CC(C)C
reactant | neodymium | 107.5 grams | [Nd] | Nd
reactant | allyl bromide | 18.2 grams | C(C=C)Br | C3H5Br
reactant | butanol DIBAH | C(CCC)O.[H-].C(C(C)C)[Al+]CC(C)C
catalyst | neodymium | [Nd] | Nd
solvent | hexane | CCCCCC | C6H14
solvent | hexane | 160 grams | CCCCCC | C6H14
solvent | hexane | 1,214 grams | CCCCCC | C6H14
product | isoprene butadiene | Yield=87% | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
